US07544697B2
A mixture of hydrazine hydrate (11.1 g, 222 mmol) and 4-bromo-5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carbonitrile (17.2 g, 44.4 mmol) in ethanol (570 mL) was heated at reflux for 90 minutes, then was allowed to cool to ambient temperature. A precipitate was isolated by filtration and washed with cold ethanol. The filtrate was concentrated under reduced pressure to generate an off-white solid that was suspended in dichloromethane (133 mL). Di-tert-butyl dicarbonate (11.6 g, 53.3 mmol) was added to the mixture, which was then stirred overnight. The mixture was filtered and the filtrate was concentrated under reduced pressure to yield a yellow oil. The crude product was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 40-60% ethyl acetate in hexanes). The appropriate fractions were combined and concentrated under reduced pressure to provide 15.8 g of tert-butyl 2-(4-bromo-3-cyano-1-propyl-1H-pyrazol-5-yl)ethylcarbamate as a colorless oil.

reactant | hydrazine hydrate | 222 mmol, 11.1 g | O.NN
reactant | 4-bromo-5-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1-propyl-1H-pyrazole-3-carbonitrile | 44.4 mmol, 17.2 g | BrC=1C(=NN(C1CCN1C(C2=CC=CC=C2C1=O)=O)CCC)C#N | C17H15BrN4O2
reactant | Di-tert-butyl dicarbonate | 53.3 mmol, 11.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 570 mL | C(C)O | C2H6O
product | tert-butyl 2-(4-bromo-3-cyano-1-propyl-1H-pyrazol-5-yl)ethylcarbamate | 15.8 g | BrC=1C(=NN(C1CCNC(OC(C)(C)C)=O)CCC)C#N | C14H21BrN4O2
